US05177069
To a solution of 2-(2-naphthylthiomethyl)glutaric acid (14.0 g) in acetonitrile (180 ml) was added benzyl alcohol (57 ml) followed by p-toluenesulfonic acid (0.52 g), and the mixture was refluxed for 23 hours. The reaction mixture was concentrated in vacuo, and the resulting residue was purified by flash column chromatography on silica eluting with dichloromethane/methanol (70:1), and recrystallized from ethyl acetate-hexane to give 11.0 g of 2-(2-benzyloxycarbonylethyl)-3-(2-naphthylthio)propionic acid.

reactant | 2-(2-naphthylthiomethyl)glutaric acid | 14.0 g | C1=C(C=CC2=CC=CC=C12)SCC(C(=O)O)CCC(=O)O | C16H16O4S
reactant | benzyl alcohol | 57 ml | C(C1=CC=CC=C1)O | C7H8O
reactant | p-toluenesulfonic acid | 0.52 g | C1(=CC=C(C=C1)S(=O)(=O)O)C | C7H8O3S
solvent | acetonitrile | 180 ml | C(C)#N | C2H3N
product | 2-(2-benzyloxycarbonylethyl)-3-(2-naphthylthio)propionic acid | 11.0 g | C(C1=CC=CC=C1)OC(=O)CCC(C(=O)O)CSC1=CC2=CC=CC=C2C=C1 | C23H22O4S
